* c:\fossee\esim\library\subcircuitlibrary\msk032\msk032.cir

.include PNP.lib
.include D.lib
.include NPN.lib
.include NJF.lib
j1 net-_i2-pad1_ net-_j1-pad2_ net-_j1-pad3_ J2N3819
j2 net-_i2-pad1_ net-_j2-pad2_ net-_j2-pad3_ J2N3819
r1  net-_j1-pad3_ net-_i1-pad1_ 1.6k
r2  net-_i1-pad1_ net-_j2-pad3_ 1.6k
i1 net-_i1-pad1_ net-_i1-pad2_  dc 2.5m
q1 net-_d1-pad1_ net-_i2-pad1_ net-_i2-pad2_ Q2N2907A
q5 net-_q3-pad1_ net-_i2-pad1_ net-_i2-pad2_ Q2N2907A
i2 net-_i2-pad1_ net-_i2-pad2_  dc 1.2m
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
q2 net-_d1-pad2_ net-_d1-pad2_ net-_i1-pad2_ Q2N2222
q3 net-_q3-pad1_ net-_d1-pad1_ net-_q3-pad3_ Q2N2222
q4 net-_q3-pad3_ net-_d1-pad2_ net-_i1-pad2_ Q2N2222
q6 net-_i2-pad1_ net-_q3-pad1_ net-_q6-pad3_ Q2N2222
r3  net-_q6-pad3_ net-_r3-pad2_ 33
r4  net-_r3-pad2_ net-_q7-pad3_ 33
q7 net-_i1-pad2_ net-_q3-pad1_ net-_q7-pad3_ Q2N2907A
* u1  ? net-_q3-pad1_ net-_i2-pad1_ net-_i2-pad1_ net-_j2-pad2_ net-_j1-pad2_ ? gnd ? net-_i1-pad2_ net-_r3-pad2_ net-_i2-pad1_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
